US07615555B2
Preparation of 3-piperidin-4-yl-3H-imidazo[4,5-c]pyridine
To tert-butyl 4-[(4-nitro-1-oxidopyridin-3-yl)amino]piperidine-1-carboxylate (1.6 g) in toluene (3 ml) was added trimethyl orthoformate (3.6 ml) followed by p-toluenesulfonic acid (105 mg) and the resulting mixture was heated to 105° C. for 4 hours. The mixture was cooled and partitioned between ethyl acetate (75 ml) and water (75 ml). The organic layer was washed with brine, dried and evaporated to dryness to give the title compound as a solid. Yield 1.18 g. NMR (CDCl3) 1.5 (s, 9H), 2.1 (m, 2H), 2.25 (m, 2H), 3.0 (m, 2H), 4.4 (m, 3H), 7.7 (dd, 1H), 8.1 (s, 1H), 8.5 (d, 1H), 8.9 (s, 1H).

reactant | tert-butyl 4-[(4-nitro-1-oxidopyridin-3-yl)amino]piperidine-1-carboxylate | 1.6 g | [N+](=O)([O-])C1=C(C=[N+](C=C1)[O-])NC1CCN(CC1)C(=O)OC(C)(C)C | C15H22N4O5
reactant | trimethyl orthoformate | 3.6 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid | 105 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 3-piperidin-4-yl-3H-imidazo[4,5-c]pyridine | N1CCC(CC1)N1C=NC2=C1C=NC=C2 | C11H14N4
